US07396849B2
2-(tert-Butyl-dimethyl-silanyl)-4-(hydroxy-naphthalen-2-yl-methyl)-imidazole-1-sulfonic acid dimethylamide (Intermediate-I1) (2.6 g, 5.4 mmol) in THF (30 mL) was treated with tetrabutylammonium fluoride (TBAF) (5.8 mL of a 1M soln) at rt for 1 h. The reaction mixture was subjected to an aqueous work-up and the product was purified by chromatography on silica gel with 66% EtOAc:hexane to give 4-(hydroxy-naphthalen-2-yl-methyl)-imidazole-1-sulfonic acid dimethylamide as a white solid, 1.54 g (80%). 4-(Hydroxy-naphthalen-2-yl-methyl)-imidazole-1-sulfonic acid dimethylamide (1.0 g, 3.0 mmol) was deoxygenated with TES in TFA according to the applicable procedures outlined in Method A to give 4-naphthalen-2-yl-methyl-imidazole-1-sulfonic acid dimethylamide (Intermediate-I2) as a white solid 0.55 g, (58%).

reactant | 2-(tert-Butyl-dimethyl-silanyl)-4-(hydroxy-naphthalen-2-yl-methyl)-imidazole-1-sulfonic acid dimethylamide | 5.4 mmol, 2.6 g | CN(S(=O)(=O)N1C(=NC(=C1)C(C1=CC2=CC=CC=C2C=C1)O)[Si](C)(C)C(C)(C)C)C | C22H31N3O3SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(hydroxy-naphthalen-2-yl-methyl)-imidazole-1-sulfonic acid dimethylamide | CN(S(=O)(=O)N1C=NC(=C1)C(C1=CC2=CC=CC=C2C=C1)O)C | C16H17N3O3S
